US07595405B2
A mixture of NaN3 (481 mg, 7.4 mmol) and 5-[1-chloro-2,2,2-trifluoro-eth-(Z)-ylideneamino]-4′-methyl-biphenyl-3-carboxylic acid methyl ester (1.3 g, 3.7 mmol) in 10 ml of dry ACN was stirred at room temperature for 16 hours. The reaction mixture were poured into ice-cold aqueous Na2CO3 solution, extracted with ethyl acetate. The organic layer washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The resulting crude 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester (1.34 g, 99% yield) was used directly in the next step.

reactant | NaN3 | 7.4 mmol, 481 mg | [N-]=[N+]=[N-].[Na+]
reactant | 5-[1-chloro-2,2,2-trifluoro-eth-(Z)-ylideneamino]-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 3.7 mmol, 1.3 g | COC(=O)C=1C=C(C=C(C1)\N=C(\C(F)(F)F)/Cl)C1=CC=C(C=C1)C | C17H13ClF3NO2
solvent | ACN | 10 ml | C(C)#N | C2H3N
product | 4′-methyl-5-(5-trifluoromethyl-tetrazol-1-yl)-biphenyl-3-carboxylic acid methyl ester | 1.34 g, 99% yield | COC(=O)C=1C=C(C=C(C1)N1N=NN=C1C(F)(F)F)C1=CC=C(C=C1)C | C17H13F3N4O2
